US08217064B2
A mixture of compound ethyl 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclo pentane carboxylate (100 mg, 0.21 mmol) and lithium hydroxide monohydrate (96 mg, 2.1 mmol) in a MeOH/THF/Water solvent mixture (5 ml/5 ml5/ml) was stirred for 3 h at room temperature. After completion of reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclopentane carboxylic acid (0.05 g). 1H-NMR (CDCl3, 500 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.56 (s, 1H); 7.34 (s, 1H); 3.98 (q, 2H); 2.68 (m, 2H); 1.94 (m, 2H); 1.78 (m, 4H).

reactant | ethyl 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclo pentane carboxylate | 0.21 mmol, 100 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC | C23H21ClF6O3
reactant | lithium hydroxide monohydrate | 2.1 mmol, 96 mg | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-cyclopentane carboxylic acid | 0.05 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)O | C21H17ClF6O3
